US06921763B2
A mixture of tert-butyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate (45.0 g, 0.129 mol) was dissolved in dichloromethane (270 mL) then the solution was cooled to 5° C. in and ice bath. A mixture of 20% trifluoroacetic acid in dichloromethane was added dropwise over the course of one hour while maintaining the temperature of the mixture at <5° C. The reaction mixture was warmed to ambient temperature and stirred for 2 hours. The solvents were removed under reduced pressure then the resulting oil was dissolved in dichloromethane (250 mL) and cautiously extracted with 2.5 N aqueous sodium hydroxide (300 mL) then brine (100 mL). The organic solution was dried over magnesium sulfate, filtered and the fitrate concentrated under reduced pressure to give 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (21.7 g, 67.5%) as a light brown solid bismaleate: 1H NMR (DMSO-d6, 400 MHz) δ 7.06 (d, 1H), 6.98 (s, 1H), 8.09 (d, 1H), 6.59 (d, 1H), 5.13 (bs, 2H), 3.76 (s, 3H), 1.26 (s, 12H); RP-HPLC (Hypersil HS C18 Hypersil HS C18, 5 μm, 100 A, 250×4.6 mm; 25%-100% acetonitrile-0.05 M ammonium acetate over 10 min, 1 mL/min) tr 10.85 min.

reactant | tert-butyl N-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]carbamate | 0.129 mol, 45.0 g | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC(OC(C)(C)C)=O | C18H28BNO5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 270 mL | ClCCl | CH2Cl2
product | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 21.7 g, 67.5% | COC1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO3
